US05599825
1) Synthesis of N-methoxyethoxyethoxyethylphthalimide
1.3 g of potassium phthalimide, 2-methoxyethoxyethoxy-1-iodoethane and 5 ml of dimethylformamide were fed into a 100 ml short-neck flask provided with a reflux condenser. The resultant mixture was heated at 90° c. for 3 hours. 100 ml of ethyl acetate was added thereto and the resultant mixture was cooled to room temperature. White precipitates thus obtained were suction-filtered, and the filtrate was washed with 100 ml of water. The obtained ethyl acetate layer was dried over magnesium sulfate, and ethyl acetate was distilled off under reduced pressure to obtain the intended compound.

reactant | potassium phthalimide | 1.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 2-methoxyethoxyethoxy-1-iodoethane | COCCOCCOC(C)I | C7H15IO3
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-methoxyethoxyethoxyethylphthalimide | COCCOCCOCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H19NO5
